US08610345B2
A mixed solution of 4.0 g of 1-bromo-6-(4-chlorophenyl)pyrene, 2.0 g of 4-t-butylphenylboronic acid, 4.8 g of tripotassium phosphate, 0.72 g of tetrabutylammonium bromide, 52 mg of palladium acetate and 100 ml of dimethylformamide was heated and stirred under a nitrogen gas stream at 130° C. for 3 hours. The solution was cooled to room temperature and 100 ml of water was poured into the solution, followed by filtration. The resulting solid was dissolved at 140° C. by adding 100 ml of xylene. The solution was cooled to 100° C. and then filtered through Celite. The filtrate was evaporated, and then the resulting solid was washed with 50 ml of methanol and vacuum-dried to obtain 3.0 g of 1-(4-t-butylphenyl)-6-(4-chlorophenyl)pyrene.

reactant | 1-bromo-6-(4-chlorophenyl)pyrene | 4.0 g | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)Cl | C22H12BrCl
reactant | 4-t-butylphenylboronic acid | 2.0 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | tripotassium phosphate | 4.8 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 0.72 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 52 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 100 ml | O | H2O
product | 1-(4-t-butylphenyl)-6-(4-chlorophenyl)pyrene | 3.0 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)Cl | C32H25Cl
